US07592361B2
Preparation of 3-(2-chloro-5-fluoro-pyrimidin-4-ylamino)-propan-1-ol
To a solution of 2,4-dichloro-5-fluoropyrimidine (15.0 g, 89.8 mmol) in ethanol (300 mL) were added 3-amino-1-propanol (8.23 mL, 107.8 mmol) and sodium carbonate (47.6 g, 449 mmol). The reaction mixture was vigorously stirred at rt for 72 h. Then the mixture was filtered through Celite®. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel flash chromatography (100% EtOAc) to give the title compound as a white solid (9.5 g, 51%). LC/MS m/z 206.3 (M+H)+; 1H NMR (300 MHz, CD2Cl2) δ 1.85 (quintet, 2H), 3.55 (t, 2H), 3.65 (t, 2H), 4.85-4.98 (br, 2H), 7.85 (d, 1H).

reactant | 2,4-dichloro-5-fluoropyrimidine | 89.8 mmol, 15.0 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-amino-1-propanol | 107.8 mmol, 8.23 mL | NCCCO | C3H9NO
reactant | sodium carbonate | 449 mmol, 47.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 3-(2-chloro-5-fluoro-pyrimidin-4-ylamino)-propan-1-ol | 9.5 g, 51% | ClC1=NC=C(C(=N1)NCCCO)F | C7H9ClFN3O
